US05073556
A solution of 27.28 g (0.359 mole) of epifluorohydrin and 19.20 g (0.1795 mole) of benzylamine dissolved in 200 ml of ethanol was heated under reflux for 4 hours. The reaction mixture was then concentrated by evaporation under reduced pressure, to give 46.6 g of N,N-bis(3-fluoro-2-hydroxypropyl)benzylamine as a colorless oil.

reactant | epifluorohydrin | 0.359 mole, 27.28 g | C(F)C1CO1 | C3H5FO
reactant | benzylamine | 0.1795 mole, 19.20 g | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N,N-bis(3-fluoro-2-hydroxypropyl)benzylamine | 46.6 g | FCC(CN(CC(CF)O)CC1=CC=CC=C1)O | C13H19F2NO2
